US04170654
3-Formyl-4-hydroxy benzyl chloride (675 g., 3.96 moles) in 3.5 liters of acetic anhydride is refluxed for 24 hours. The reaction mixture is evaporated to dryness, triturated with a minimum amount of ether and filtered to yield 987 g (79%) of 3-(diacetoxymethyl)-4-acetoxybenzyl chloride, m.p. 93°-95°.

reactant | 3-Formyl-4-hydroxy benzyl chloride | 3.96 moles, 675 g | C(=O)C=1C=C(CCl)C=CC1O | C8H7ClO2
reactant | acetic anhydride | 3.5 liters | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(diacetoxymethyl)-4-acetoxybenzyl chloride | 987 g, 79% | C(C)(=O)OC(C=1C=C(CCl)C=CC1OC(C)=O)OC(C)=O | C14H15ClO6
